US05078907
potassium monomethyl terephthalate.
Typical reagent levels were as follows: dihexyl terephthalate (33.5 g, 0.10 mole), potassium hydroxide (5.6 g, 0.10 mole), 100 ml of toluene and 20 ml of 1-hexanol. After workup 20.2g (70%) of product was recovered.

reactant | dihexyl terephthalate | 0.10 mole, 33.5 g | C(C1=CC=C(C(=O)OCCCCCC)C=C1)(=O)OCCCCCC | C20H30O4
reactant | potassium hydroxide | 0.10 mole, 5.6 g | [OH-].[K+]
reactant | 1-hexanol | 20 ml | C(CCCCC)O | C6H14O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | potassium monomethyl terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC.[K+] | InChI=1S/C9H8O4.K/c1-13-9(12)7-4-2-6(3-5-7)8(10)11;/h2-5H,1H3,(H,10,11);/q;+1/p-1
